US03974144
Proceeding in a manner similar to that used in Example 1, 5-methyl-2-(p-tolyl)benzofuran (2.22 g; 0.01 mole) was interacted with 2.25 g (0.01 mole) of the anil derivative of terephthalaldehydic acid in the presence of 6.72 g (0.06 mole) of potassium tert-butoxide in 150 ml of dimethylformamide. The product thus produced was sublimed to obtain 5-methyl-2-[4-(4-carboxystyryl)phenyl ]benzofuran, melting at 355°-358°C. The wavelength of maximum excitation of this compound was 374 nm and the wavelength of maximum emission was 437 nm.

reactant | 5-methyl-2-(p-tolyl)benzofuran | 0.01 mole, 2.22 g | CC=1C=CC2=C(C=C(O2)C2=CC=C(C=C2)C)C1 | C16H14O
reactant | terephthalaldehydic acid | C(C1=CC=C(C=O)C=C1)(=O)O | C8H6O3
reactant | potassium tert-butoxide | 0.06 mole, 6.72 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 5-methyl-2-[4-(4-carboxystyryl)phenyl ]benzofuran | CC=1C=CC2=C(C=C(O2)C2=CC=C(C=C2)C=CC2=CC=C(C=C2)C(=O)O)C1 | C24H18O3
